US08895777B2
Preparation of 4-(3-Fluorophenoxy)butyric acid (Compound 7)
A 1 L 3-neck round bottom flask equipped with a magnetic stirrer bar and a reflux condenser was charged with 17.17 g (150 mmol) of 3-fluorophenol, 33.82 g (165 mmol) of ethyl 4-bromobutyrate, 24.88 g, 180 mmol potassium carbonate and 600 mL of 2-butanone. The slurry heated to reflux. After stirring for 21 hr at reflux, the reaction mixture was cooled to 25° C., filtered and concentrated. The residue was taken up in of water and treated with 150 mL of 2N aqueous sodium hydroxide (300 mmol). The reaction mixture was heated to reflux for 30 min and cooled to 25° C. The brown solution was acidified with aqueous 150 ml of 2N hydrochloric acid. The resulting pink solid was isolated by filtration washing with hexanes to yield 25.04 g, mp 53-54° C. Combustion analysis: Found: C, 60.53; H, 5.79%; F, 9.84%; C10H11FO3 requires C, 60.60; H, 5.59%; F, 9.59%; 1H NMR (d6-DMSO): δ 12.1, bs, 1H (COOH); δ 7.20, dd, 1H, (H para to OR); δ 6.7, m, 3H (aryl H's); δ 3.90, t 2H, (CH2 α to O); δ 2.30, t, 2H (CH2 α to COOR); δ 1.87, p, 2H (CH2 β to ArO and COOH).

reactant | 3-fluorophenol | 150 mmol, 17.17 g | FC=1C=C(C=CC1)O | C6H5FO
reactant | ethyl 4-bromobutyrate | 165 mmol, 33.82 g | BrCCCC(=O)OCC | C6H11BrO2
reactant | potassium carbonate | 180 mmol, 24.88 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hydroxide | 300 mmol, 2N, 150 mL | [OH-].[Na+]
reactant | hydrochloric acid | 2N, 150 ml | Cl | ClH
solvent | 2-butanone | 600 mL | CC(CC)=O | C4H8O
product | 4-(3-Fluorophenoxy)butyric acid | FC=1C=C(OCCCC(=O)O)C=CC1 | C10H11FO3
